US05780465
C. Methyl 2,2-Dimethyl-3-(2-fluorophenyl)-3-(4-methylthio-5-pyrimidinyl)propanoate
To a solution of lithium diisopropylamide prepared from 5.3 g (57 mmol) of diisopropylamine and 21 mL (57 mmol) of 2.5M n-butyl lithium in hexane and 100 mL of dry tetrahydrofuran at -10° C. was slowly added with stirring 5.3 g (57 mmol) of methyl 2-methylpropanoate. The resulting solution was allowed to warm slowly to 12° C. and was then recooled to -10° C. To this was added in small portions with stirring 7.0 g (26 mmol) of 5-(chloro-(2-fluorophenyl)methyl)-4-methylthiopyrimidine. After 1 hr the resulting solution was warmed to ambient temperature. Ether and dilute aqueous hydrochloric acid were added and the ethereal phase was recovered, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography on silica gel to obtain 5.3 g (60 of theory) of the title compound as a colorless oil.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 57 mmol, 5.3 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 57 mmol, 2.5M, 21 mL | C(CCC)[Li]
reactant | methyl 2-methylpropanoate | 57 mmol, 5.3 g | CC(C(=O)OC)C | C5H10O2
reactant | 5-(chloro-(2-fluorophenyl)methyl)-4-methylthiopyrimidine | 26 mmol, 7.0 g | ClC(C=1C(=NC=NC1)SC)C1=C(C=CC=C1)F | C12H10ClFN2S
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | Ether | CCOCC | C4H10O
product | Methyl 2,2-Dimethyl-3-(2-fluorophenyl)-3-(4-methylthio-5-pyrimidinyl)propanoate | CC(C(=O)OC)(C(C=1C(=NC=NC1)SC)C1=C(C=CC=C1)F)C | C17H19FN2O2S
